US08039463B2
A mixture of toluene (7.5 mL) and water (3 mL) was degassed with argon for 10 min, to which sodium carbonate (297 mg, 2.8 mmol) was added and the mixture was further degassed with argon for 5 min. Thiophene-3-boronic acid (215 mg, 1.68 mmol) and N-(4-bromo-phenyl)-acetamide (300 mg, 2.27 mmol) were added and the mixture was degassed with argon for another 10 min. To the above resulting mixture was added tetrakispalladium triphenylphosphine (161 mg, 0.14 mmol) and the mixture was degassed with argon for another 10 min. The resulting reaction mixture was heated to reflux for 3 hrs. After completion, the reaction mixture was diluted with ethyl acetate and washed with water followed by brine solution. The ethyl acetate layer collected was dried over sodium sulphate and concentrated under reduced pressure. Purification by column chromatography, (using silica gel 60-120 and 35% ethyl acetate in hexane as eluent) afforded 193 mg (63.44% Yield) of N-(4-thiophen-3-yl-phenyl)-acetamide.

reactant | sodium carbonate | 2.8 mmol, 297 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | Thiophene-3-boronic acid | 1.68 mmol, 215 mg | S1C=C(C=C1)B(O)O | C4H5BO2S
reactant | N-(4-bromo-phenyl)-acetamide | 2.27 mmol, 300 mg | BrC1=CC=C(C=C1)NC(C)=O | C8H8BrNO
reactant | triphenylphosphine | 0.14 mmol, 161 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 3 mL | O | H2O
solvent | toluene | 7.5 mL | C1(=CC=CC=C1)C | C7H8
product | N-(4-thiophen-3-yl-phenyl)-acetamide | 193 mg, 63.44% Yield | S1C=C(C=C1)C1=CC=C(C=C1)NC(C)=O | C12H11NOS
